US04420487
Preparation of 5-Chloro-Benzimidazole-6-Sulfonamide
In a round bottomed flask equipped with a condenser 24.0 g of 2-amino-4-chloro-5-sulfamyl-aniline and 7.0 g of formic acid is refluxed at 100° C. for two hours. Concentrate under vacuum. Dissolve in hot methanol, stir, cool and filter off the solid wt.=11.0 gm. m.p. 243.8° C.

reactant | 2-amino-4-chloro-5-sulfamyl-aniline | 24.0 g | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | formic acid | 7.0 g | C(=O)O | CH2O2
product | 5-Chloro-Benzimidazole-6-Sulfonamide | ClC1=CC2=C(N=CN2)C=C1S(=O)(=O)N | C7H6ClN3O2S
